US06642244B2
4-Amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid
A solution of 4-amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (800 mg) in NaOH (1N)/MeOH/THF (1:1:1, 15 mL) was stirred for 4 days. The acidity of the reaction mixture was adjusted to pH 5-6 with AcOH. The THF and MeOH were removed. The residue was dissolved in water (30 mL) then extracted with EtOAc (3×100 mL). The combined extracts were dried (NaSO4). Removal of the solvent gave the desired product (746 mg) as white solid. LC: 3.13 (Gradient 1), MH+: 333

reactant | 4-amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 800 mg | C(C)OC(=O)C1=C(C=2C(N=C1Cl)=NN(C2)CC2=CC=C(C=C2)OC)N | C17H17ClN4O3
reactant | MeOH THF | 15 mL | CO.C1CCOC1
reactant | AcOH | CC(=O)O | C2H4O2
solvent | NaOH | 1N | [OH-].[Na+]
product | 4-Amino-6-chloro-2-(4-methoxyphenyl)methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 746 mg | NC=1C=2C(N=C(C1C(=O)O)Cl)=NN(C2)CC2=CC=C(C=C2)OC | C15H13ClN4O3
